US06340759B1
Synthesis of 1-(1-imidazolyl)-3-(4-methoxyphenyl)isoquinoline hydrochloride
1-Chloro-3-(4-methoxyphenyl)isoquinoline (405 mg) and imidazole (204 mg) were dissolved in N,N-dimethylformamide (5 ml), followed by the addition of 60% sodium hydride (60 mg), and the resulting mixture was stirred at 80° C. for 6 hr. The reaction mixture was partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), and then the resulting product was converted into a hydrochloride in a conventional manner, to give the hydrochloride of the title compound as a pale yellow amorphous (255 mg, yield; 53%).

reactant | 1-Chloro-3-(4-methoxyphenyl)isoquinoline | 405 mg | ClC1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | imidazole | 204 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 60 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(1-imidazolyl)-3-(4-methoxyphenyl)isoquinoline hydrochloride | Cl.N1(C=NC=C1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | InChI=1S/C19H15N3O.ClH/c1-23-16-8-6-14(7-9-16)18-12-15-4-2-3-5-17(15)19(21-18)22-11-10-20-13-22;/h2-13H,1H3;1H
